US07592373B2
7.1.a. 6-amino-2-piperidin-2-yl-quinoline
Prepared analogously to Example 3.1.b. from 6-nitro-2-piperidin-2-yl-quinoline. Yield: 0.79 g (59.6% of theory); C14H17N3 (M=227.31); calc.: molecular ion peak (M+H)+: 228; found: molecular ion peak (M+H)+: 228; Rf value: 0.37 (silica gel, dichloromethane/methanol (19:1)).

reactant | 6-nitro-2-piperidin-2-yl-quinoline | [N+](=O)([O-])C=1C=C2C=CC(=NC2=CC1)C1NCCCC1 | C14H15N3O2
solvent | dichloromethane methanol | ClCCl.CO
product | 6-amino-2-piperidin-2-yl-quinoline | NC=1C=C2C=CC(=NC2=CC1)C1NCCCC1 | C14H17N3
